US08138330B2
Synthesis of O5′-(2-(4-nitrophenoxycarbonyl)benzoyl)thymidine, PSNp-dT
O3′-tert.-butyldimethylsilyl-O5′-(2-(4-nitrophenoxycarbonyl)benzoyl)thymidine, PSNp-dT-Si (6f) (24.4 g, 39 mmol) was dissolved in dichloromethane (300 ml). Hydrogen fluoride in pyridine (65% HF, 12.6 ml, 450 mmol) was added and the mixture was stirred at ambient temperature for 5 hours. The reaction was quenched by the addition of solid calcium carbonate (25.9 g) and stirred for 1 hour. After removal of the solid material by filtration the organic phase was extracted with 5% sodium hydrogencarbonate solution (2 times 500 ml) and water (2 times 500 ml). The organic phase was dried over sodium sulfate and concentrated to a foam by evaporation. The foam was dissolved in dichloromethane (120 ml) and added dropwise to a mixture of hexanes and diethylether (8:2, v/v, 1500 ml). The precipitate was filtered off and washed with a small volume of hexanes. Further purification by column chromatography on silica gel (ethyl acetate/hexanes, gradient elution) afforded the product in 99.8% purity by RP-HPLC (18.4 g, 92%). ESI-MS (pos. mode) m/z 512 [M+H]+.

reactant | O3′-tert.-butyldimethylsilyl-O5′-(2-(4-nitrophenoxycarbonyl)benzoyl)thymidine | C(C)(C)(C)O[C@H]1C[C@@](O[C@@H]1COC(C1=C(C=CC=C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)(N1C(=O)NC(=O)C(C)=C1)[SiH](C)C | C30H35N3O10Si
reactant | Hydrogen fluoride | F | FH
reactant | pyridine | 450 mmol, 12.6 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | O5′-(2-(4-nitrophenoxycarbonyl)benzoyl)thymidine | [N+](=O)([O-])C1=CC=C(OC(=O)C2=C(C(=O)OC[C@@H]3[C@H](C[C@@H](O3)N3C(=O)NC(=O)C(C)=C3)O)C=CC=C2)C=C1 | C24H21N3O10
